US03931241
Next, the reacted gas was passed through a layer in a Pyrex tube (diameter: 2.5cm) packed with 20cc of an oxychlorinating catalyst comprising silica-alumina carrying 5% by weight of potassium chloride and 5% by weight of cupric chloride, at a temperature of 250°C while introducing oxygen in an amount of 1000cc/hour. The water generated was trapped in a vessel and the chlorine gas recovered was circulated, whereby the reaction was carried out for 2 hours. After completion of the reaction, the product was analyzed using gas chromatography, and it was confirmed that the product contained 7.4g of citraconic acid anhydride and 1.8g of methylsuccinic acid anhydride. In addition, a small amount of chloromethylsuccinic acid anhydride was formed.

reactant | potassium chloride | [Cl-].[K+]
reactant | oxygen | O=O | O2
reactant | citraconic acid anhydride | 7.4g | C1(\C(\C)=C/C(=O)O1)=O | C5H4O3
reactant | methylsuccinic acid anhydride | 1.8g | CC1C(=O)OC(C1)=O | C5H6O3
solvent | water | O | H2O
product | chloromethylsuccinic acid anhydride | ClCC1C(=O)OC(C1)=O | C5H5ClO3
